US06660744B1
A mixture of N-(2,3-dihydrobenzo[b]furan-3-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.089 g, 0.000265 mol), trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.090 g, 0.000204 mol), tetrakis-(triphenylphosphine)palladium (0.014 g, 0.000012 mol) and sodium carbonate monohydrate (0.063 g, 0.00051 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for sixteen hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-[4-(2,3-dihydrobenzo[b]furan-3-ylamino)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate (0.078 g, 0.000121 mol) as a white solid.

reactant | N-(2,3-dihydrobenzo[b]furan-3-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000265 mol, 0.089 g | O1C2=C(C(C1)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C20H24BNO3
reactant | trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000204 mol, 0.090 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.00051 mol, 0.063 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | trans-3-[4-(2,3-dihydrobenzo[b]furan-3-ylamino)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate | 0.000121 mol, 0.078 g | C(C)(=O)O.C(C)(=O)O.O1C2=C(C(C1)NC1=CC=C(C=C1)C1=NN(C3=NC=NC(=C31)N)[C@@H]3CC[C@H](CC3)N3CCN(CC3)C)C=CC=C2 | InChI=1S/C30H36N8O.2C2H4O2/c1-36-14-16-37(17-15-36)22-10-12-23(13-11-22)38-30-27(29(31)32-19-33-30)28(35-38)20-6-8-21(9-7-20)34-25-18-39-26-5-3-2-4-24(25)26;2*1-2(3)4/h2-9,19,22-23,25,34H,10-18H2,1H3,(H2,31,32,33);2*1H3,(H,3,4)/t22-,23-,25?;;
